US06770404B1
Hexafluoroisobutylene (HFIB)/Vinyl Alcohol (VOH) Copolymer. Fifty grams of the poly(HFIB/VOAc) prepared above, 500 ml of methyl alcohol, and 25 ml of 25 wt % sodium methoxide in methyl alcohol were refluxed for 6 hours. Over this period additional methyl alcohol was added as ˜860 ml of methyl alcohol were distilled off. Addition of resulting polymer solution to water gave a gummy precipitate. The water was decanted off and the precipitate taken back into 200 ml of methyl alcohol and reprecipitated with 500 ml of water in a Waring blender. Vacuum filtration, drying under pump vacuum and then for 24 hours in a 75° C. vacuum oven gave 37 g of poly(HFIB/VOH) as off white granules.

reactant | Hexafluoroisobutylene | FC(C(C(F)(F)F)=C)(F)F | C4H2F6
reactant | sodium methoxide | C[O-].[Na+]
solvent | methyl alcohol | CO | CH4O
solvent | methyl alcohol | ˜860 ml | CO | CH4O
solvent | methyl alcohol | 500 ml | CO | CH4O
product | HFIB VOH | FC(C(C(F)(F)F)=C)(F)F.C(=C)O | InChI=1S/C4H2F6.C2H4O/c1-2(3(5,6)7)4(8,9)10;1-2-3/h1H2;2-3H,1H2
